US03954757
A mixture of 2.8 g 7-azaindole in 25 ml methanol and 3.5 g 1,4,5,6-tetrahydro-2-pyrimidinethiol in 50 ml methanol is added to a well-stirred solution of 7.6 g iodine and 15 g potassium iodide in 50 ml water. The mixture is stirred at room temperature for 14 hours and filtered. The precipitate is washed with water and ether and then recrystallised from water to give 3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-7-aza-indole hydriodide melting at 294°-295°.

reactant | 7-azaindole | 2.8 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | 1,4,5,6-tetrahydro-2-pyrimidinethiol | 3.5 g | N1C(=NCCC1)S | C4H8N2S
reactant | iodine | 7.6 g | II | I2
reactant | potassium iodide | 15 g | [I-].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-(1,4,5,6-tetrahydro-2-pyrimidinylthio)-7-aza-indole hydriodide | I.N1C(=NCCC1)SC1=CNC2=NC=CC=C12 | InChI=1S/C11H12N4S.HI/c1-3-8-9(7-15-10(8)12-4-1)16-11-13-5-2-6-14-11;/h1,3-4,7H,2,5-6H2,(H,12,15)(H,13,14);1H
